US07507760B2
C. Synthesis of (2S,4S)-4-azido-pyrrolidin-1,2-dicarboxylic acid-1-tert-butyl ester-2-ethyl ester
To the solution of (2S,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid-1-tert-butyl ester-2-ethyl ester) (28) (2.6 g, 6.3 mmol) in dry DMF (15 ml) was added NaN3 (0.41 g, 6.3 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was then concentrated under reduced pressure. The residue was dissolved in ethyl acetate: water (10:1) (150 ml). The organic layer was washed with water (30 ml, 2×), dried over MgSO4 and evaporated to dryness The resulting residue was purified by column chromatography using pet ether: CH2Cl2: MeOH (10:1) to give 1.8 g of desired product.

reactant | (2S,4R)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1,2-dicarboxylic acid-1-tert-butyl ester-2-ethyl ester | CCOC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C19H27NO7S
reactant | NaN3 | 6.3 mmol, 0.41 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2S,4S)-4-azido-pyrrolidin-1,2-dicarboxylic acid-1-tert-butyl ester-2-ethyl ester | 1.8 g | CCOC(=O)[C@H]1N(C[C@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C | C12H20N4O4
